US05393923
N-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-phenylmethyl]-N-hydroxy-2-methylpropanamide
A solution of 0.82 g (0.01 mole) of sodium acetate in 7 mL H2O is added to a solution of 1.08 g (0. 0033 mole) of 2,6-bis (1,1-dimethylethyl)-4-[(hydroxyamino)phenylmethyl]phenol in 30 mL dioxane. Isobutyryl chloride (0.51 g, 0. 00477 mole) is added dropwise and the mixture is stirred at room temperature for 17 hours. Water (25 mL) is added to the mixture and the solid material is filtered off and washed with water. After drying it is recrystallized from Et2O-n-hexane to give off-white crystals, 0.477 g (36%), m.p. 179°-180° C.

reactant | sodium acetate | 0.01 mole, 0.82 g | C(C)(=O)[O-].[Na+]
reactant | 2,6-bis (1,1-dimethylethyl)-4-[(hydroxyamino)phenylmethyl]phenol | 1.08 g | CC(C)(C)C1=C(C(=CC(=C1)C(C1=CC=CC=C1)NO)C(C)(C)C)O | C21H29NO2
reactant | Isobutyryl chloride | 0.51 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | H2O | 7 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | Water | 25 mL | O | H2O
product | N-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-phenylmethyl]-N-hydroxy-2-methylpropanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(N(C(C(C)C)=O)O)C1=CC=CC=C1 | C25H35NO3
